US06949579B2
10 cm3 of trimethylsilyl iodide are added to 460 mg of N-[5-(3-pyridyl)-6-[4-(phenylmethoxy)phenyl]-1H-indazol-3-yl]butanamide, described previously, and the mixture is refluxed for 18 hours. The insoluble material is filtered off, washed with 2×20 cm3 of diethyl ether and taken up in 50 cm3 of tetrahydrofuran and 25 cm3 of ethyl acetate, and the organic phase is washed with 2×100 cm3 of 10% sodium thiosulphate solution, dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure to give 330 mg of crude product, which is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2.5 cm), eluting with a cyclohexane/ethyl acetate mixture (50/50 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.) and the residue is taken up in 10 cm3 of diisopropyl ether, filtered off, washed with 3×5 cm3 of diisopropyl ether, with 5 cm3 of ethyl acetate and then with 10 cm3 of diisopropyl ether and dried (90 Pa; 45° C.) to give 90 mg of N-[5-(3-pyridyl)-6-(4-hydroxyphenyl)-1H-indazol-3-yl]butanamide in the form of cream-coloured crystals melting at 165° C.

reactant | N-[5-(3-pyridyl)-6-[4-(phenylmethoxy)phenyl]-1H-indazol-3-yl]butanamide | 460 mg | N1=CC(=CC=C1)C=1C=C2C(=NNC2=CC1C1=CC=C(C=C1)OCC1=CC=CC=C1)NC(CCC)=O | C29H26N4O2
solvent | trimethylsilyl iodide | 10 cm3 | C[Si](C)(C)I | C3H9ISi
product | N-[5-(3-pyridyl)-6-(4-hydroxyphenyl)-1H-indazol-3-yl]butanamide | 90 mg | N1=CC(=CC=C1)C=1C=C2C(=NNC2=CC1C1=CC=C(C=C1)O)NC(CCC)=O | C22H20N4O2
